US04620007
4.3 g of cyclopropylamine were added dropwise to a solution of 24.9 g of ethyl 2-(2,4-dichloro-5-fluoro-benzoyl)-3-ethoxy-acrylate in 80 ml of ethanol while cooling with ice and stirring. When the exothermic reaction had ceased, the mixture was stirred for another hour at room temperature, the solvent was stripped off in vacuo, and the residue was recrystallised from cyclohexane/petroleum ether. 22.9 g of ethyl 2-(2,4-dichloro-5-fluoro-benzoyl)-3-cyclopropylamino-acrylate (R1 =C2H5) of melting point 89° to 90° C. were obtained.

reactant | cyclopropylamine | 4.3 g | C1(CC1)N | C3H7N
reactant | ethyl 2-(2,4-dichloro-5-fluoro-benzoyl)-3-ethoxy-acrylate | 24.9 g | ClC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C(=C1)Cl)F | C14H13Cl2FO4
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | ethyl 2-(2,4-dichloro-5-fluoro-benzoyl)-3-cyclopropylamino-acrylate | 22.9 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C(=C1)Cl)F | C15H14Cl2FNO3
